US04855084
A solution of 26.15 g of 9-benzoylnonanoic acid in 260 ml of glacial acetic acid and 1 ml of 0.1N hydrochloric acid is hydrogenated (normal pressure) at 30°-35° C. with 2.6 g of palladium-on-charcoal (5% by weight) as catalyst. When no more hydrogen is taken up, the mixture is filtered and the filtrate is evaporated under reduced pressure. The residue is dissolved in 200 ml of ethanol and 2 ml of concentrated sulfuric acid and the solution is refluxed for 22 hours. The solvent is evaporated off and the residue is treated with water and extracted with ether. The organic phase is separated off, washed with water, sodium bicarbonate solution (10% by weight) and saturated sodium chloride solution, dried and evaporated. Distillation of the residue under high vacuum (1 mbar, 137°-141° C.) gives 20 g of ethyl 10-phenyldecanoate.

reactant | 9-benzoylnonanoic acid | 26.15 g | C(C1=CC=CC=C1)(=O)CCCCCCCCC(=O)O | C16H22O3
reactant | hydrogen | [H][H] | H2
reactant | acetic acid | 260 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 0.1N, 1 ml | Cl | ClH
catalyst | palladium-on-charcoal | 2.6 g | [Pd] | Pd
product | ethyl 10-phenyldecanoate | 20 g | C1(=CC=CC=C1)CCCCCCCCCC(=O)OCC | C18H28O2
